US07618975B2
4-(4-Methoxy-phenoxy)-quinazoline
To a stirred solution of 4-methoxyphenol (75 mg, 0.60 mmol) and 4-chloro-quinazoline (125 mg, 76 mmol) in 3 mL of DMF was added sodium hydride (60% oil suspension, 30 mg, 0.75 mmol) at 0° C., then the reaction mixture was allowed to warm to room temperature and stirred for 5 h. The reaction was quenched by adding 50 uL of water and diluted with 25 mL of ethyl acetate. It was washed with water (25 mL×3), saturated NaCl, dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by chromatography (25% ethyl acetate/hexanes) to give the title compound (134 mg, 0.53 mmol, 89%). 1H NMR (CDCl3): 8.78 (s, 1H), 8.38 (m, 1H), 7.89-8.02 (m, 2H), 7.67 (m, 1H), 7.19 (m, 1H), 7.00 (m, 1H), 3.86 (s, 3H).

reactant | 4-methoxyphenol | 0.60 mmol, 75 mg | COC1=CC=C(C=C1)O | C7H8O2
reactant | 4-chloro-quinazoline | 76 mmol, 125 mg | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | sodium hydride | 0.75 mmol, 30 mg | [H-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(4-Methoxy-phenoxy)-quinazoline | 0.53 mmol, 134 mg, 89% | COC1=CC=C(OC2=NC=NC3=CC=CC=C23)C=C1 | C15H12N2O2
